US07326790B2
By the method of Tetrahedron, 1992, 48, 8127-8142 the substance 5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)isoxazole can be treated with diphosphorus pentasulfide followed by aqueous or ethanolic ammonia quench to produce 5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)isothiazole. The nitrophenyl group can be reduced to the corresponding aniline with tin (II) dichloride or iron powder and ammonium chloride. This aniline can then be treated with 2,2-dichloroacetyl chloride and triethylamine to yield 2,2-dichloro-N-[4-[5-(2,6-dichlorophenyl)-3-isothiazolyl]phenyl]acetamide.

reactant | 5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)isoxazole | ClC1=C(C(=CC=C1)Cl)C1=CC(=NO1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H8Cl2N2O3
reactant | diphosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | ammonia | N | H3N
product | 5-(2,6-dichlorophenyl)-3-(4-nitrophenyl)isothiazole | ClC1=C(C(=CC=C1)Cl)C1=CC(=NS1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H8Cl2N2O2S
